US05032165
Preparation of ethyl 2-[5-(4-chloro-1-methyl-5-methylthio-1H-pyrazol-3-yl)-2,4-dichloro-phenoxy]propionate (compound No. 11)
A mixture of 4-chloro-3-(2,4-dichloro-5-hydroxyphenyl)-1-methyl-5-methylthio-1H-pyrazole (3.50 g, 10.8 mmoles), 50 ml acetone, anhydrous K2CO3, and ethyl 2-bromopropionate (2.06 g, 11.4 mmoles) was subjected to reaction under reflux for 2 hours. Then the resulting solution was filtered to remove acetone-insoluble matter, and the filtrate was concentrated and purified by silica gel column chromatography, give the title compound as oily substance; Yield 70.0 nD(28.8° C.): 1.5763.

reactant | 4-chloro-3-(2,4-dichloro-5-hydroxyphenyl)-1-methyl-5-methylthio-1H-pyrazole | 10.8 mmoles, 3.50 g | ClC=1C(=NN(C1SC)C)C1=C(C=C(C(=C1)O)Cl)Cl | C11H9Cl3N2OS
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl 2-bromopropionate | 11.4 mmoles, 2.06 g | BrC(C(=O)OCC)C | C5H9BrO2
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | ethyl 2-[5-(4-chloro-1-methyl-5-methylthio-1H-pyrazol-3-yl)-2,4-dichloro-phenoxy]propionate | ClC=1C(=NN(C1SC)C)C=1C(=CC(=C(OC(C(=O)OCC)C)C1)Cl)Cl | C16H17Cl3N2O3S
